US05028602
A solution of N-(2-hydroxy-2-phenylethyl) 2,5-dibromothiophene-3-ethylamine (7.0 g) and methane sulphonic acid (1.57 ml) in trifluoroacetic acid (35 ml) was heated under reflux for 5 hours. The brown reaction mixture was evaporated and the residue suspended in iced water (70 ml), basified with 0.880 ammonia solution (7 ml) and extracted with dichloromethane (2×100 ml). The extracts were dried, filtered and evaporated to a dark brown oil. Chromatography on silica eluting with 2% methanol in dichloromethane gave 1,3-dibromo-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine. The crystal salt was prepared by addition of ethanolic hydrogen chloride (I equivalent) to an ethanol (15 ml) solution of the amine. The solution was cooled and filtered to give 1,3-dibromo-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine hydrochloride (m.p. 248°) as a tan solid. A second crop of product was obtained by diluting the mother liquors with diethyl ether.

reactant | N-(2-hydroxy-2-phenylethyl) 2,5-dibromothiophene-3-ethylamine | 7.0 g | OC(CNCCC1=C(SC(=C1)Br)Br)C1=CC=CC=C1 | C14H15Br2NOS
reactant | methane sulphonic acid | 1.57 ml | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 35 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1,3-dibromo-4-phenyl-5,6,7,8-tetrahydro-4H-thieno[3,4-d]azepine | BrC=1SC(=C2C1CCNCC2C2=CC=CC=C2)Br | C14H13Br2NS
